US06353136B1
30 mmol of p-dichlorobenzene (4.4 g), 70 mmol of di-n-butylamine (9.0 g), 70 mmol of KOtBu (7.9 g), 30 mmol of lithium bromide (2.6 g) and 44 mg of trans-di-μ-acetatobis[2-[bis(1,1-dimethylethyl)phosphino]μ-2-methylpropyl-C,P]dipalladium(II) (0.2 mol %) are suspended in 75 ml of toluene and placed in a pressure tube under protective gas. After 12 hours at 140° C., an aqueous work-up is carried out. After the aqueous phase has been extracted twice with toluene, the combined organic phases are dried over magnesium sulfate and freed of the solvents on a rotary evaporator. Distillation gives 1,4-bis(N,N-dibutylamino)benzene as a virtually colorless liquid having a boiling point of 143° C./10 torr; yield: 77%.

reactant | p-dichlorobenzene | 30 mmol, 4.4 g | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
reactant | di-n-butylamine | 70 mmol, 9.0 g | C(CCC)NCCCC | C8H19N
reactant | KOtBu | 70 mmol, 7.9 g | CC(C)(C)[O-].[K+]
reactant | lithium bromide | 30 mmol, 2.6 g | [Br-].[Li+]
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 1,4-bis(N,N-dibutylamino)benzene | yield: 77% | C(CCC)N(CCCC)C1=CC=C(C=C1)N(CCCC)CCCC | C22H40N2
